US05304549
12.0 g of diethyl 2-[(acetamido)(hydroxyphosphinyl)methyl]malonate were dissolved in 100 ml of dry dimethyl sulphoxide and the solution was cooled to 10° C. while stirring under a nitrogen atmosphere. 3.2 g of 60% sodium hydride in mineral oil were added, the mixture was stirred at room temperature for 2 hours and then 8 g of isobutyl iodide were added. The mixture was stirred at room temperature in the dark for 20 hours and 20 ml of glacial acetic acid were added. The volatiles were removed by evaporation in a high vacuum and the resulting semi-solid residue was dissolved in 100 ml of water containing 15 ml of 50% hypophosphorous acid. The solution was extracted eight times with ethyl acetate and the combined extracts were dried over sodium sulfate and evaporated. The residue was dissolved in dichloromethane and the solution was washed in sequence with water and saturated sodium chloride solution. The dichloromethane solution was dried over sodium sulfate and evaporated, and the residue was crystallized from diethyl ether/n-hexane to give 6.28 g of diethyl 2-[(acetamido)-(hydroxyphosphinyl)methyl]-2-isobutylmalonate in the form of a white solid; MS: 352 (M+H)+.

reactant | diethyl 2-[(acetamido)(hydroxyphosphinyl)methyl]malonate | 12.0 g | C(C)(=O)NC(C(C(=O)OCC)C(=O)OCC)P(=O)O | C10H18NO7P
reactant | sodium hydride | 3.2 g | [H-].[Na+]
reactant | isobutyl iodide | 8 g | C(C(C)C)I | C4H9I
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
product | diethyl 2-[(acetamido)-(hydroxyphosphinyl)methyl]-2-isobutylmalonate | 6.28 g | C(C)(=O)NC(C(C(=O)OCC)(C(=O)OCC)CC(C)C)P(=O)O | C14H26NO7P
